US07846960B2
2-Allyl-5-methoxy-benzoic Acid Methyl Ester
To an ambient temperature solution of 2-Bromo-5-methoxy-benzoic acid methyl ester (750 mg, 3.02 mmol) in benzene (2 mL) are added allyltri-n-butyl tin (1.16 mL, 3.73 mmol) and tetrakis(triphenylphosphine)palladium (0) (174 mg, 0.157 mmol, 5 mol %). The reaction mixture is heated in a sealed tube to 100° C. After 3 h, the reaction is concentrated under reduced pressure and the residue is chromatographed (0% to 10% EtOAc/Hex) to yield the title compound (451 mg, 73%). 1H NMR (400 MHz, CDCl3) δ 7.40 (d, 1H, J=2.6 Hz), 7.18 (d, 1H, J=8.4 Hz), 7.00 (dd, 1H, J=8.6, 2.9 Hz), 6.04-5.93 (m, 1H), 5.03-4.94 (m, 2H), 3.88 (s, 3H), 3.82 (s, 3H), 3.70-3.65 (m, 2H).

reactant | 2-Bromo-5-methoxy-benzoic acid methyl ester | 3.02 mmol, 750 mg | COC(C1=C(C=CC(=C1)OC)Br)=O | C9H9BrO3
reactant | allyltri-n-butyl tin | 3.73 mmol, 1.16 mL | C(C=C)[Sn](CCCC)(CCCC)CCCC
solvent | benzene | 2 mL | C1=CC=CC=C1 | C6H6
catalyst | tetrakis(triphenylphosphine)palladium | 0.157 mmol, 174 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Allyl-5-methoxy-benzoic Acid Methyl Ester | 451 mg, 73% | COC(C1=C(C=CC(=C1)OC)CC=C)=O | C12H14O3
